US05403842
3-methyl-4-oxo-2-phenyl-4H-1-benzopyran-8-sulfonyl chloride (Intermediate VIII)
A solution of 4.55 g of sodium nitrite in 12 ml of water was added dropwise to a stirred mixture of 15.1 g of 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (prepared as described in Da Re, P. et al., Il. Farmaco (Ed. Sci.) 11: 670, 1956) in 150 ml of hydrochloric acid (d=1.18) at -5° C. Stirring was continued at 0° C. for 30 minutes. The solution was poured, over a period of 10 minutes and at -5° to 0° C., into 120 ml of a 30% by weight solution of sulfur dioxide in acetic acid containing 1.53 g of cupric chloride dihydrate and 13 ml of water. After 1 hour at 0° C. and 1 hour at 20°-25° C., 300 ml of iced water was added to the mixture. A precipitate formed and was collected by suction filtration, washed with water and dried in a desiccator over sodium hydroxide until of constant weight to give 18 g of crude title product, m.p. 165°-170° C., for use without further purification.

reactant | sodium nitrite | 4.55 g | N(=O)[O-].[Na+]
reactant | 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 15.1 g | NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C16H13NO2
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | water | 12 ml | O | H2O
solvent | acetic acid | 1.53 g | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
solvent | water | 13 ml | O | H2O
product | 3-methyl-4-oxo-2-phenyl-4H-1-benzopyran-8-sulfonyl chloride | 18 g | CC1=C(OC2=C(C1=O)C=CC=C2S(=O)(=O)Cl)C2=CC=CC=C2 | C16H11ClO4S
